US07737152B2
N-(4-(6-Chloropyrazin-2-yloxy)naphthalen-1-yl)acetamide, CJS 733
Method KK. A mixture of N-(4-hydroxynaphthalen-1-yl)acetamide (1.22 g, 6.08 mmol) and potassium tert-butoxide (0.68 g, 6.08 mmol) in dry DMF (19 mL) was stirred for 1 hour under argon. To this mixture, 2,6-dichloropyrazine (1.09 g, 7.30 mmol) was added and the temperature was raised to 90° C. and maintained for 20 hours. The DMF was evaporated in vacuo. The resulting crude was dissolved in a (hot) mixture of AcOEt (25 mL) and acetone (175 mL) and filtered. The volume of the filtrate was reduced to 100 mL and this filtrate crystallised upon storage at low temperature to yield the title compound (1.30 g). Yield: 68%. 1H NMR (500 MHz, DMSO-d6) δ 2.21 (s, 3H), 7.42 (d, 1H, J=8.2 Hz), 7.57 (t, 1H, J=7.5 Hz), 7.64 (t, 1H, J=7.6 Hz), 7.72 (d, 1H, J=8.1 Hz), 7.90 (d, 1H, J=8.3 Hz), 8.16 (d, 1H, J=8.5 Hz), 8.52 (s, 1H), 8.72 (s, 1H), 10.02 (s, 1H). 13C NMR (125.8 MHz, DMSO-d6) δ 23.42, 117.59, 121.40, 121.65, 123.42, 126.53, 126.71, 126.85, 128.90, 131.85, 133.59, 137.50, 144.40, 145.04, 158.92, 169.04. m/z 314.0 [(M+H)+ calcd for C16H12ClN3O2 313.1].

reactant | N-(4-hydroxynaphthalen-1-yl)acetamide | 6.08 mmol, 1.22 g | OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C12H11NO2
reactant | potassium tert-butoxide | 6.08 mmol, 0.68 g | CC(C)([O-])C.[K+]
reactant | 2,6-dichloropyrazine | 7.30 mmol, 1.09 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | DMF | 19 mL | CN(C)C=O | C3H7NO
product | N-(4-(6-Chloropyrazin-2-yloxy)naphthalen-1-yl)acetamide | 1.30 g, Yield: 68% | ClC1=CN=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C16H12ClN3O2
